US08383596B2
Ethyl-(2R)-2,3-epoxyproprionate (0.5 g, 4.3 mmol), ammonium chloride (0.253 g, 4.73 mmol), and sodium azide (0.336 g, 5.17 mmol) were combined in DMF (8 mL), and the mixture was heated at 75° C. for 14 hours. The reaction was cooled to room temperature, and was partitioned between water and ether/hexanes (1:1 v/v). The phases were separated, and the organic phase was washed once each with water, brine, dried over MgSO4, filtered, and concentrated to an oil, which was purified by flash chromatography (silica gel/hexanes: 10% ethyl acetate) to give (R)-ethyl-3-azido-2-hydroxypropionate as a clear oil (0.47 g, 2.97 mmol, 69% yield). Rf 0.27 (hexanes: 10% EtOAc, v/v, p-anisaldehyde); MS m/e [M+Na]+ calcd 182.1, found 182.0.

reactant | Ethyl-(2R)-2,3-epoxyproprionate | 4.3 mmol, 0.5 g | C(C)OC([C@H]1CO1)=O | C5H8O3
reactant | ammonium chloride | 4.73 mmol, 0.253 g | [Cl-].[NH4+]
reactant | sodium azide | 5.17 mmol, 0.336 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | (R)-ethyl-3-azido-2-hydroxypropionate | 2.97 mmol, 0.47 g, 69% yield | C(C)OC([C@@H](CN=[N+]=[N-])O)=O | C5H9N3O3
